US07727988B2
3-Benzoyl-1-(4-chloro-butyl)-5-iodo-1H-pyrimidine-2,4-dione (Prep44)
3-Benzoyl-5-iodo-1H-pyrimidine-2,4-dione (Prep36, 2.5 g, 7.3 mmol), K2CO3 (1 g, 7.3 mmol) and 1-bromo-4-chloro-butane (2.10 mL, 18 mmol) were suspended in dry DMF (10 mL). After stirring the reaction at room temperature overnight, water was added and the mixture was extracted with ethyl acetate. The organic phase was dried (Na2SO4), filtered and evaporated; the crude was purified by flash chromatography with petroleum ether-ethyl acetate (7-3) to give the title compound as a white solid (3 g, 98% yield).

reactant | 3-Benzoyl-5-iodo-1H-pyrimidine-2,4-dione | 7.3 mmol, 2.5 g | C(C1=CC=CC=C1)(=O)N1C(NC=C(C1=O)I)=O | C11H7IN2O3
reactant | K2CO3 | 7.3 mmol, 1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-4-chloro-butane | 18 mmol, 2.10 mL | BrCCCCCl | C4H8BrCl
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-Benzoyl-1-(4-chloro-butyl)-5-iodo-1H-pyrimidine-2,4-dione | 3 g, 98% yield | C(C1=CC=CC=C1)(=O)N1C(N(C=C(C1=O)I)CCCCCl)=O | C15H14ClIN2O3
